US06410737B1
Preparation of 4-Trifluoromethylaniline
Raney nickel (2 g) was added to a solution of 4-trifluoromethylphenylhydrazine (1 g) in methanol (5 ml) and heated at reflux for 1 hour. The cooled mixture was filtered and evaporated to give the title compound in 100% yield.

reactant | 4-trifluoromethylphenylhydrazine | 1 g | FC(C1=CC=C(C=C1)NN)(F)F | C7H7F3N2
catalyst | Raney nickel | 2 g | [Ni] | Ni
solvent | methanol | 5 ml | CO | CH4O
product | 4-Trifluoromethylaniline | 100% yield | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
